US07795282B2
Step B: Preparation of 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide.
5-(2,5-difluorophenyl)-2-methyl-2-phenyl-2,3-dihydro-1,3,4-thiadiazole (0.290 g, 1.00 mmol) was weighed into a 25 mL flask, and suspended in 10 mL of anhydrous THF, followed by addition of thiocarbonyldiimidazole (0.196 g, 1.10 mmol). The reaction was then heated to reflux for 3 hours, at which time all starting material was consumed. The reaction was cooled to room temperature, followed by addition of hydrazine (0.156 mL, 5.00 mmol). Following 4 hours at room temperature, all intermediate was consumed by LC-MS. The reaction was then concentrated, then loaded to Biotage-(45) followed by flash column chromatography (10-50% ethyl acetate/hexanes), affording the desired product (80% purity; 0.268 g, 74%).

reactant | 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 1.00 mmol, 0.290 g | FC1=C(C=C(C=C1)F)C1=NNC(S1)(C1=CC=CC=C1)C | C15H12F2N2S
reactant | thiocarbonyldiimidazole | 1.10 mmol, 0.196 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | hydrazine | 5.00 mmol, 0.156 mL | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC=CC=C1)C)C(NN)=S | C16H14F2N4S2
